US06133264
7 Grams of 5-tetrahydropyranyloxy-8-allyloxy-3,4-dihydro-2(1H)-quinolinone was dissolved in 50 ml of DMF, then 1 g of 60%-sodium hydride was added gradually in limited amounts to this solution, the reaction mixture was stirred at room temperature until generation of hydrogen gas ceased. To this reaction mixture was added 2.7 g of prenyl chloride, stirred at room temperature for 8 hours. To this mixture was added 100 ml of water and stirred, the mixture was acidified by adding concentrated hydrochloric acid, stirred at 60° C. for 1 hour to remove the tetrahydropyranyl group at 5-position. The mixture was extracted with ethyl acetate, and washed with water, dried over anhydrous magnesium sulfate, then concentrated under reduced pressure. The oily product thus obtained was purified by a silica gel column chromatography, there was obtained 4.2 g of 5-hydroxy-8-allyloxy-3,4-dihydro-1-prenyl-2(1H)-quinolinone as pale yellow oily product.

reactant | 5-tetrahydropyranyloxy-8-allyloxy-3,4-dihydro-2(1H)-quinolinone | O1C(CCCC1)OC1=C2CCC(NC2=C(C=C1)OCC=C)=O | C17H21NO4
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | prenyl chloride | 2.7 g | C(C=C(C)C)Cl | C5H9Cl
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-hydroxy-8-allyloxy-3,4-dihydro-1-prenyl-2(1H)-quinolinone | 4.2 g | OC1=C2CCC(N(C2=C(C=C1)OCC=C)CC=C(C)C)=O | C17H21NO3
